US09340544B2
(6-Chloro-pyridin-3-yl)-[2-(3,5-dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-amine (Compound 9.7)
Was prepared according to Example 9 from (6-chloro-pyridin-3-yl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine and 2,4-pentanedione.

reactant | (6-chloro-pyridin-3-yl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine | ClC1=CC=C(C=N1)NC1=C2N=CN(C2=NC(=N1)NN)C | C11H11ClN8
reactant | 2,4-pentanedione | CC(CC(C)=O)=O | C5H8O2
product | (6-Chloro-pyridin-3-yl)-[2-(3,5-dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-amine | ClC1=CC=C(C=N1)NC1=C2N=CN(C2=NC(=N1)N1N=C(C=C1C)C)C | C16H15ClN8
